US08748613B2
Preparation of (3R)-1-(2-oxo-2-phenylethyl)-3-(2-(piperidin-1-yl)-2-(thiophen-2-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride (C 106)
2-Chloro-1-phenylethanone (63.0 mg, 0.41 mmol) was added to a solution of (R)-quinuclidin-3-yl 2-(piperidin-1-yl)-2-(thiophen-2-yl)acetate (124 mg, 0.37 mmol) in ethyl acetate (2.5 ml) and acetonitrile (1.2 ml). The pale yellow solution was stirred at room temperature for 24 hours. The solvent was evaporated and the residue was triturated with Et2O (8 ml). The suspension was filtered on a buckner funnel washing with Et2O (5 ml) and the solid was recovered from the filter to collect the title compound (88 mg, 48.5% yield) as a off-white solid.

reactant | 2-Chloro-1-phenylethanone | 0.41 mmol, 63.0 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | (R)-quinuclidin-3-yl 2-(piperidin-1-yl)-2-(thiophen-2-yl)acetate | 0.37 mmol, 124 mg | N1(CCCCC1)C(C(=O)O[C@H]1CN2CCC1CC2)C=2SC=CC2 | C18H26N2O2S
solvent | ethyl acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 1.2 ml | C(C)#N | C2H3N
product | (3R)-1-(2-oxo-2-phenylethyl)-3-(2-(piperidin-1-yl)-2-(thiophen-2-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride | 88 mg, 48.5% yield | [Cl-].O=C(C[N+]12C[C@@H](C(CC1)CC2)OC(C(C=2SC=CC2)N2CCCCC2)=O)C2=CC=CC=C2 | InChI=1S/C26H33N2O3S.ClH/c29-22(20-8-3-1-4-9-20)18-28-15-11-21(12-16-28)23(19-28)31-26(30)25(24-10-7-17-32-24)27-13-5-2-6-14-27;/h1,3-4,7-10,17,21,23,25H,2,5-6,11-16,18-19H2;1H/q+1;/p-1/t21?,23-,25?,28?;/m0./s1
